US07485644B2
A vigorously stirred suspension of 1-(5-bromopyridin-2-yl)piperazine (CAS number 73406-97-0, 116 g, 479 mmol), 1,10-phenanthroline (17.3 g, 96 mmol), Cesium carbonate (312 g, 960 mmol) and Copper (I) iodide (91 g, 480 mmol) in benzyl alcohol (960 mL) was stirred at 120° C. under an inert atmosphere for 24 hours, adding further aliquots of copper (I) iodide (5×91 g) every hour. Cooled to 40° C. and diluted with DCM (1L), stirring at room temperature for 30 minutes. Filtered through celite, washing well with DCM (500 mL). The fractions were washed with NaOH (2M, 300 mL), combined and extracted with HCl (2M, 5×1L). The combined acidic extracts were washed with DCM (500 mL), cooled to 0° C. and extracted into DCM (1L), basifying slowly with NaOH (˜46 wt %) to pH10. The aqueous layer was further extracted with DCM (2×500 mL) and the volatiles removed in vacuo, to give 1-[5-(benzyloxy)pyridin-2-yl]piperazine as a black liquor (104 g, 278 mmol @ 72 wt %, 58%).

reactant | 1-(5-bromopyridin-2-yl)piperazine | 479 mmol, 116 g | BrC=1C=CC(=NC1)N1CCNCC1 | C9H12BrN3
reactant | 1,10-phenanthroline | 96 mmol, 17.3 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | Cesium carbonate | 960 mmol, 312 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | benzyl alcohol | 960 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Copper (I) iodide | 480 mmol, 91 g | [Cu]I
catalyst | copper (I) iodide | 91 g | [Cu]I
product | 1-[5-(benzyloxy)pyridin-2-yl]piperazine | C(C1=CC=CC=C1)OC=1C=CC(=NC1)N1CCNCC1 | C16H19N3O
